US06544982B1
Step C. 3,4-Methylenedioxybenzyl-[3-(3,5-difluorophenyl)-isoxazol-5-yl]-(3-azepin-1-yl-propyl)-amine hydrochloride
To a solution of 3,4-methylenedioxybenzyl-(3-azepin-1-yl-propyl)amine in diethyl ether (26.7 ml of a 0.12 M solution in diethyl ether, 3.22 mmol) cooled to 0° C. is slowly added n-BuLi (1.51 ml of a 1.6M solution in hexane, 2.41 mmol). The resulting mixture is stirred at 0° C. for 10 min and 3-(3,5-difluorophenyl)-5-chloroisoxazole (347 mg, 1.61 mmol) is added at once. After stirring at 0° C. for 30 min, the reaction mixture is dilute with ethyl acetate, washed with water andbrine, dried over sodium sulfate, and concentrated in vacuo. The crude material is purified by flash chromatography (silica gel, 3% methanol containing 10% NH4OH in dichloromethane) to give the free base of the title compound as an oil. The free base is dissolved in dichloromethane (10 ml) and treated with 1 N HCl in diethyl ether (4 ml, 4 mmol) to provide after concentration in vacuo, 3,4-methylenedioxybenzyl-[3-(3,5-difluorophenyl)-isoxazol-5-yl]-(3-azepin-1-yl-propyl)-amine hydrochloride (513 mg, 63%) as a pale yellow foam.

reactant | 3,4-methylenedioxybenzyl-(3-azepin-1-yl-propyl)amine | C1OC=2C=C(CNCCCN3C=CC=CC=C3)C=CC2O1 | C17H20N2O2
reactant | n-BuLi | [Li]CCCC
reactant | 3-(3,5-difluorophenyl)-5-chloroisoxazole | 1.61 mmol, 347 mg | FC=1C=C(C=C(C1)F)C1=NOC(=C1)Cl | C9H4ClF2NO
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3,4-Methylenedioxybenzyl-[3-(3,5-difluorophenyl)-isoxazol-5-yl]-(3-azepin-1-yl-propyl)-amine hydrochloride | Cl.C1OC=2C=C(CN(CCCN3C=CC=CC=C3)C3=CC(=NO3)C3=CC(=CC(=C3)F)F)C=CC2O1 | InChI=1S/C26H23F2N3O3.ClH/c27-21-13-20(14-22(28)15-21)23-16-26(34-29-23)31(11-5-10-30-8-3-1-2-4-9-30)17-19-6-7-24-25(12-19)33-18-32-24;/h1-4,6-9,12-16H,5,10-11,17-18H2;1H
